US08445690B2
1-(2,4-Dichloro-benzyl)-1H-indazole-5-carbaldehyde was prepared from 1H-indazole-5-carbaldehyde and 1-bromomethyl-2,4-dichloro-benzene following General Procedure A.

reactant | 1H-indazole-5-carbaldehyde | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | 1-bromomethyl-2,4-dichloro-benzene | BrCC1=C(C=C(C=C1)Cl)Cl | C7H5BrCl2
product | 1-(2,4-Dichloro-benzyl)-1H-indazole-5-carbaldehyde | ClC1=C(CN2N=CC3=CC(=CC=C23)C=O)C=CC(=C1)Cl | C15H10Cl2N2O
